US06590083B1
A: Preparation of N,S-Diacetylcysteamine
Cysteamine hydrochloride (50.0 g) is added to a 1 L 3-neck round bottom flask fitted with a magnetic stir bar, 2 addition funnels, and a pH electrode. Water (300 mL) is added, and the stirred solution is cooled on ice. The pH is adjusted to 8.0 by addition of 8 N KOH. Acetic anhydride (125 mL) is placed in one addition funnel, and 8N KOH (350 mL) is placed in the other addition funnel. The acetic anhydride is added dropwise to the cysteamine solution, with 8 N KOH being added so as to keep the reaction pH at 8+/−1. After addition of acetic anhydride is complete, the pH was adjusted to 7.0 using 1 N HCl and the mixture is allowed to stir for 75 min. on ice. Solid NaCl is added to saturation, and the solution is extracted 4 times using 400 mL portions of CH2Cl2. The organic extracts are combined, dried over MgSO4, filtered, and concentrated under reduced pressure to yield 68.9 g (97% yield) of a pale yellow oil, which crystallizes upon standing at 4° C.

reactant | Cysteamine hydrochloride | 50.0 g | Cl.NCCS
reactant | KOH | 8 N | [OH-].[K+]
reactant | Acetic anhydride | 125 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | KOH | 8N, 350 mL | [OH-].[K+]
reactant | cysteamine | NCCS | C2H7NS
reactant | KOH | 8 N | [OH-].[K+]
reactant | HCl | 1 N | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
solvent | Water | 300 mL | O | H2O
product | N,S-Diacetylcysteamine | 68.9 g, 97% yield | C(C)(=O)NCCSC(C)=O | C6H11NO2S
